US07816349B2
(R)-3-[3,5-Dichloro-4′-(4-trifluoromethyl-piperidine-1-carbonyl)-biphenyl-4-ylmethyl]-trans-1-(4-hydroxy-cyclohexyl)-pyrrolidin-2-one
Mix (R)-3-[3,5-Dichloro-4′-(4-trifluoromethyl-piperidine-1-carbonyl)-biphenyl-4-ylmethyl]-trans-1-(4-triisopropylsilanyloxy-cyclohexyl)-pyrrolidin-2-one (Preparation 22) (0.548 g, 0.78 mmol) and TBAF (1.55 ml, 1.55 mmol) in 15 ml of dry THF. Stir at room temperature for 2 hours. Quench with saturated NaHCO3 extract with ethyl acetate. Wash with brine. Dry over magnesium sulfate, filter, and concentrate. After flash column chromatography receive 0.448 g (97%) of the title compound: Mass spectrum (apci) m/z=596 (M+H).

reactant | (R)-3-[3,5-Dichloro-4′-(4-trifluoromethyl-piperidine-1-carbonyl)-biphenyl-4-ylmethyl]-trans-1-(4-triisopropylsilanyloxy-cyclohexyl)-pyrrolidin-2-one | 0.78 mmol, 0.548 g | ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)[C@@H]1CC[C@H](CC1)O[Si](C(C)C)(C(C)C)C(C)C)=O)Cl)C1=CC=C(C=C1)C(=O)N1CCC(CC1)C(F)(F)F | C39H53Cl2F3N2O3Si
reactant | TBAF | 1.55 mmol, 1.55 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (R)-3-[3,5-Dichloro-4′-(4-trifluoromethyl-piperidine-1-carbonyl)-biphenyl-4-ylmethyl]-trans-1-(4-hydroxy-cyclohexyl)-pyrrolidin-2-one | ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)[C@@H]1CC[C@H](CC1)O)=O)Cl)C1=CC=C(C=C1)C(=O)N1CCC(CC1)C(F)(F)F | C30H33Cl2F3N2O3
